US08809352B2
N-(7-(1((4′-Chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yl)-4-((R)-4-morpholino-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethylsulfonyl)benzenesulfonamide
Following General Reductive Amination Procedure 2, (R)-4-(4-Morpholino-1-(phenylthio)butan-2-ylamino)-N-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yl)-3-(trifluoromethylsulfonyl)benzenesulfonamide (34 mg, 0.05 mmol) and 1-((4′-chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-one (19 mg, 0.059 mmol) afforded the title compound (6 mg, 12% yield).

reactant | (R)-4-(4-Morpholino-1-(phenylthio)butan-2-ylamino)-N-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yl)-3-(trifluoromethylsulfonyl)benzenesulfonamide | 0.05 mmol, 34 mg | O1CCN(CC1)CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)NC=1C2=C(N=CN1)CNCC2)S(=O)(=O)C(F)(F)F | C28H33F3N6O5S3
reactant | 1-((4′-chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-one | 0.059 mmol, 19 mg | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CC(C(CC1)=O)F | C18H17ClFNO
product | N-(7-(1((4′-Chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yl)-4-((R)-4-morpholino-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethylsulfonyl)benzenesulfonamide | 6 mg, 12% yield | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CC(C(CC1)N1CC=2N=CN=C(C2CC1)NS(=O)(=O)C1=CC(=C(C=C1)N[C@@H](CSC1=CC=CC=C1)CCN1CCOCC1)S(=O)(=O)C(F)(F)F)F | C46H50ClF4N7O5S3
